US09290460B2
Quinazoline-2,4(1H,3H)-dione (1.0 g, 6.2 mmol), hexamethyldisilazane (HMDS, 2.5 g, 15.4 mmol), and toluene (50 mL) were added into 100 mL two-mouth flask. Concentrated sulfuric acid (0.06 g) was added into the flask when stirring. The mixture was refluxed and reacted for 8 h. Toluene and excessive HMDS were removed via evaporation under reduced pressure, thus obtaining an intermediate product 2,4-di(trimethylsilyloxy)quinazoline.

reactant | Quinazoline-2,4(1H,3H)-dione | 6.2 mmol, 1.0 g | N1C(NC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | hexamethyldisilazane | 15.4 mmol, 2.5 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | sulfuric acid | 0.06 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2,4-di(trimethylsilyloxy)quinazoline | C[Si](OC1=NC2=CC=CC=C2C(=N1)O[Si](C)(C)C)(C)C | C14H22N2O2Si2
